US07816369B2
5-Chloro-2-nitroaniline (1 g; 5.8 mmol) and pyridine (0.64 ml; 8.1 mmol) were dissolved in dichloromethane (10 ml) and cooled to 0° C. This was added dropwise over 5 minutes to a solution of 2-chloro-5-nitrobenzoyl chloride (1.34 g; 6.1 mmol) in dichloromethane (5 ml). The reaction was stirred at room temperature for 72 hours before adding further acid chloride (1.34 g) and pyridine (0.64 ml). After 30 minutes, the solvent was evaporated and the bisacylated residue treated with 1:1 concentrated ammonia/acetonitrile (10 ml). All the solvent was removed after 5 minutes and the residue crystallised from 1:1 chloroform/heptane (30 ml) to give 2-chloro-N-(5-chloro-2-nitro-phenyl)-5-nitro-benzamide (1.78 g, 86%)

reactant | 5-Chloro-2-nitroaniline | 5.8 mmol, 1 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | pyridine | 8.1 mmol, 0.64 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-5-nitrobenzoyl chloride | 6.1 mmol, 1.34 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | pyridine | 0.64 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-chloro-N-(5-chloro-2-nitro-phenyl)-5-nitro-benzamide | 1.78 g, 86% | ClC1=C(C(=O)NC2=C(C=CC(=C2)Cl)[N+](=O)[O-])C=C(C=C1)[N+](=O)[O-] | C13H7Cl2N3O5
